US05763458
1-(4-Amino-5-chloro-2-methoxyphenyl)-3-[1-(tert-butoxycarbonyl)-piperidin-4-yl]propan-1-one (1.5 g, 3.8 mmol) was dissolved in methylene chloride (20 mL) and trifluoroacetic acid (5 mL) was added to the solution. After 30 minutes the solution was washed with aqueous ammonium hydroxide, and dried over sodium sulfate. Evaporation of the solvents gave 1-(4-amino-5-chloro-2-methoxyphenyl)-3-(piperidin-4-yl)-propan-1-one (1.1 g, 3.8 mmol), m.p. 138°-140° C.

reactant | 1-(4-Amino-5-chloro-2-methoxyphenyl)-3-[1-(tert-butoxycarbonyl)-piperidin-4-yl]propan-1-one | 3.8 mmol, 1.5 g | NC1=CC(=C(C=C1Cl)C(CCC1CCN(CC1)C(=O)OC(C)(C)C)=O)OC | C20H29ClN2O4
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-amino-5-chloro-2-methoxyphenyl)-3-(piperidin-4-yl)-propan-1-one | 3.8 mmol, 1.1 g | NC1=CC(=C(C=C1Cl)C(CCC1CCNCC1)=O)OC | C15H21ClN2O2
